US09337358B2
Tetradecylthiophene-3-carboxylate
To a 200 mL round bottom flask were added 10 g (70 mmol) of methyl 3-thiophenecarboxylate, 17 g (79 mmol) of 1-tetradecanol, 1 mL methanesulfonic acid, and 50 mL of toluene. This mixture was heated to reflux for 17 hours. After the solvent was removed, the remaining methyl 3-thiophenecarboxylate was removed by kugelrohr distillation. The remaining residue was filtered through a silica gel pad with 10% ethyl acetate in hexane. The solvents were removed from the filtrate to provide 21 g of the desired compound. The NMR data were obtained and were consistent with those of the desired compound.

reactant | methyl 3-thiophenecarboxylate | 70 mmol, 10 g | S1C=C(C=C1)C(=O)OC | C6H6O2S
reactant | 1-tetradecanol | 79 mmol, 17 g | C(CCCCCCCCCCCCC)O | C14H30O
reactant | methanesulfonic acid | 1 mL | CS(=O)(=O)O | CH4O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Tetradecylthiophene-3-carboxylate | 21 g | C(CCCCCCCCCCCCC)OC(=O)C1=CSC=C1 | C19H32O2S
